US06011050
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-methoxyisoindoline-1,3-dione was prepared by the procedure of Example 8 from 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine (580 mg, 2.12 mmol) and 3-methoxyphthalic anhydride (380 mg, 2.13 mmol) in acetic acid (15 mL). The product was obtained as a white solid (620 mg, 67% yield): mp, 162.5-164.5° C.; 1H NMR (CDCl3) δ 1.45 (t, J=6.9 Hz, 3H, CH3), 2.85 (s, 3H, CH3), 3.78 (dd, J=4.7, 10.5 Hz, 1H, CHH), 3.84 (s, 3H, CH3), 3.99 (s, 3H, CH3), 4.09 (q, J=6.9 Hz, 2H, CH2), 4.54 (dd, J=10.3, 14.4 Hz, 1H, CHH), 5.87 (dd, J=4.6, 10.7 Hz, 1H, NCH), 6.80-6.83 (m, 1H, Ar), 7.10-7.18 (m, 3H, Ar), 7.38 (d, J=7.3 Hz, 1H, Ar), 7.63 (dd, J=7.5, 8.2 Hz, 1H, Ar); 13C NMR (CDCl3) δ 14.57, 41.32, 48.52, 54.62, 55.82, 56.19, 64.38, 111.35, 112.52, 115.56, 116.75, 117.58, 120.40, 129.58, 133.59, 136.30, 148.41, 149.46, 156.74, 166.43, 167.35; Anal Calcd for C21H23NO7S: C, 58.19; H, 5.35; N, 3.23. Found: C, 58.05; H, 5.35; N, 3.24.

reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 2.12 mmol, 580 mg | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
reactant | 3-methoxyphthalic anhydride | 2.13 mmol, 380 mg | COC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O4
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-methoxyisoindoline-1,3-dione | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)OC)=O | C21H23NO7S
